US09023846B2
STEP B: 5-tert-Butyl-4-cyano-2-methyl-2H-pyrazole-3-carboxylic acid ethyl ester
A mixture of 4-bromo-5-tert-butyl-2-methyl-2H-pyrazole-3-carboxylic acid ethyl ester (1.00 g, 3.46 mmol) and CuCN (372 mg, 4.15 mmol) in NMP (10 mL) was stirred at 200° C. under microwave irradiation for 1 h. After cooling to room temperature, the mixture was treated with DCM (100 mL) and filtered through diatomaceous earth. The filtrate was concentrated in vacuo, and the residue was purified by flash chromatography on silica gel (0:100-10:90 EtOAc-hexanes) to yield the title compound as a white solid. 1H-NMR (400 MHz, CDCl3) δ: 4.45 (q, J=7.2 Hz, 2H), 4.14 (s, 3H), 1.45 (t, J=7.2 Hz, 3H), 1.43 (s, 9H). Mass Spectrum (LCMS, ESI pos.) Calculated For C12H17N3O2: 236.1 (M+H), Measured: 236.1.

reactant | 4-bromo-5-tert-butyl-2-methyl-2H-pyrazole-3-carboxylic acid ethyl ester | 3.46 mmol, 1.00 g | C(C)OC(=O)C=1N(N=C(C1Br)C(C)(C)C)C | C11H17BrN2O2
reactant | CuCN | 4.15 mmol, 372 mg | C(#N)[Cu]
reactant | DCM | 100 mL | C(Cl)Cl | CH2Cl2
solvent | NMP | 10 mL | CN1CCCC1=O | C5H9NO
product | 5-tert-Butyl-4-cyano-2-methyl-2H-pyrazole-3-carboxylic acid ethyl ester | C(C)OC(=O)C=1N(N=C(C1C#N)C(C)(C)C)C | C12H17N3O2
